US03979444
To a solution of the oily 4-methyl-4-phenylcyclohexanone in 50 ml. of ethanol, 1.25 g. of sodium borohydride is added. At the end of about 5 hours the solvent is removed and then dissolved in ether and water. The organic layer is washed successively with sodium bicarbonate solution and brine and then evaporated to dryness. The crude product is chromatographed on a column of 500 ml. of silica gel with elution by 1% acetone in methylene chloride. There is first obtained 1.4 g. of the starting ethylene ketal having a melting point of 44° to 48°C., followed by 3.08 g. (79% yield) of 4-methyl-4-phenylcyclohexanol, having a melting point of 56° to 72°C. The NMR of the 4-methyl-4-phenylcyclohexanol shows a 3:2 ratio of equatorial to axial compounds. Separation of the mixture by additional chromatography yields 4-cis-methyl-4-trans-phenylcyclohexanol and 4-trans-methyl-4-cis-phenylcyclohexanol.

reactant | 4-methyl-4-phenylcyclohexanone | CC1(CCC(CC1)=O)C1=CC=CC=C1 | C13H16O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-methyl-4-phenylcyclohexanol | 79% yield | CC1(CCC(CC1)O)C1=CC=CC=C1 | C13H18O
